US07964643B2
2′-Nitro-3-trifluoromethylbiphenyl-4-sulfonic acid-(4-hydroxybutyl)-amide (ABD-365)
Using a method analogous to that described in Example 40, 4-bromo-2-trifluoromethylphenyl-sulfonic acid-(4-hydroxybutyl)-amide and 2-nitrophenyl boronic acid were reacted to give the title compound as a thick oil. δC (DMSO, 62.9 MHz): 26.1, 29.5, 42.8, 60.2, 128.2, 124.9, 120.7, 128.7, 130.2, 132.6, 133.1, 133.5, 139.3, 139.8, 141.8 and 147.9.

reactant | 4-bromo-2-trifluoromethylphenyl-sulfonic acid-(4-hydroxybutyl)-amide | OCCCCNS(=O)(=O)C1=C(C=C(C=C1)Br)C(F)(F)F | C11H13BrF3NO3S
reactant | 2-nitrophenyl boronic acid | [N+](=O)([O-])C1=C(C=CC=C1)B(O)O | C6H6BNO4
product | 2′-Nitro-3-trifluoromethylbiphenyl-4-sulfonic acid-(4-hydroxybutyl)-amide | OCCCCNS(=O)(=O)C1=C(C=C(C=C1)C1=C(C=CC=C1)[N+](=O)[O-])C(F)(F)F | C17H17F3N2O5S
